US08247556B2
4,4-Dimethyl-7-nitro-1,2,3,4-tetrahydroquinoline (1.08 g) was heated at reflux in 10 ml of acetic anhydride for 2 h, cooled to RT, diluted with water (100 ml), neutralized to pH7 with NaHCO3 (solid) and extracted with EtOAc. The organic portion was washed with brine, removal of the solvents afforded 1-(4,4-dimethyl-7-nitro-3,4-dihydroquinolin-1(2H)-yl)ethanone as a solid.

reactant | 4,4-Dimethyl-7-nitro-1,2,3,4-tetrahydroquinoline | 1.08 g | CC1(CCNC2=CC(=CC=C12)[N+](=O)[O-])C | C11H14N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 100 ml | O | H2O
product | 1-(4,4-dimethyl-7-nitro-3,4-dihydroquinolin-1(2H)-yl)ethanone | CC1(CCN(C2=CC(=CC=C12)[N+](=O)[O-])C(C)=O)C | C13H16N2O3
